US05214037
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)- 2-(2-propenyloxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3- cephem-4-carboxylic acid diphenylmethyl ester (376 mg : 0.46 mMol.) in a mixture of anisole (1.5 ml) and nitromethane (6 ml) at -30° C. is added a solution of aluminum chloride (0.37 g : 2.8 mMol.) in anisole (1.5 ml), and the mixture is stirred for 50 minutes. The reaction mixture is mixed with ethanol (2 ml) and stirred at the same temperature for 5 minutes and mixed with 1N-hydrochloric acid (5 ml) and water (200 ml) The aqueous layer is taken, washed with ethyl acetate, and concentrated under reduced pressure to remove remaining organic solvents. The resulting aqueous layer is subjected to chromatography over styrene- divinylbenzene copolymer (methanol : water=4:1). The eluting material is washed with ethyl acetate to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(2-propenyloxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid (127 mg) as white solid. Yield : 50%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)- 2-(2-propenyloxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio)-3- cephem-4-carboxylic acid diphenylmethyl ester | 0.46 mMol, 376 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OCC=C)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SCSC=2N=NNC2 | C36H36N8O7S4
reactant | aluminum chloride | 2.8 mMol, 0.37 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | anisole | 1.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 6 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 1.5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | water | 200 ml | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-(2-propenyloxyimino)acetamido]-3-(1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4-carboxylic acid | 127 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O)=N/OCC=C | C18H18N8O5S4
